US08466143B2
D. Preparation of ethyl 3-(4-fluorobenzoyl)-1-methyl-1,2,3,6-tetrahydro-azepino[4,5-b]indole-5-carboxylate
In a manner similar to Example 2, the title compound was prepared from ethyl 1-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and 4-fluorobenzoyl chloride. 1H-NMR (CDCl3): δ 10.54 (1H, br s), 7.97 (1H, s), 7.63-7.68 (2H, m), 7.58 (1H, d), 7.39 (1H, d), 7.09-7.23 (4H, m), 5.28 (1H, dd), 4.25 (2H, m), 3.85 (1H, m), 3.18 (1H, d), 1.34 (3H, d), 1.22 (3H, t); MS(ESI): 393 (MH+).

reactant | ethyl 1-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | CC1CNC=C(C=2NC=3C=CC=CC3C21)C(=O)OCC | C16H18N2O2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | ethyl 3-(4-fluorobenzoyl)-1-methyl-1,2,3,6-tetrahydro-azepino[4,5-b]indole-5-carboxylate | FC1=CC=C(C(=O)N2C=C(C=3NC=4C=CC=CC4C3C(C2)C)C(=O)OCC)C=C1 | C23H21FN2O3
